US04946862
4.84 g of 1-(2-thienyl)propyl isocyanide and 6.87 g of 3-(3,4-dimethoxyphenyl)propyl chloride are treated in the same manner as described in Example 1-(1) to give 7.2 g of 1-ethyl-4-(3,4-dimethoxyphenyl)-1-(2-thienyl)butyl isocyanide as a colorless oil. Yield; 68.3%

reactant | 1-(2-thienyl)propyl isocyanide | 4.84 g | S1C(=CC=C1)C(CC)[N+]#[C-] | C8H9NS
reactant | 3-(3,4-dimethoxyphenyl)propyl chloride | 6.87 g | COC=1C=C(C=CC1OC)CCCCl | C11H15ClO2
product | 1-ethyl-4-(3,4-dimethoxyphenyl)-1-(2-thienyl)butyl isocyanide | 7.2 g, Yield; 68.3% | C(C)C(CCCC1=CC(=C(C=C1)OC)OC)(C=1SC=CC1)[N+]#[C-] | C19H23NO2S
